* Created by KLayout

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 Y A vdd vdd PMOS_mst L=1U W=10.2U AS=28.56P AD=28.56P PS=26U PD=26U
* device instance $2 r0 *1 6.1,6.8 NMOS_mst
M$2 Y A gnd gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=9.52P PS=12.4U PD=12.4U
.ENDS INV_X1
